US05639780
Step 1: Methyl (5-methoxy-2-methyl-1H-indol-3-yl)acetate
A suspension of 4-methoxyphenyl hydrazine hydrochloride (50 g, 0.286M) and methyl 4-oxo-pentanoate (40 mL, 0.315M) in HOAc (500 mL) was stirred for 16 h at reflux. The solvent was removed under vacuum, and the brown residue was partitioned between EtOAc and saturated NaHCO3 solution. The organic layer was washed with H2O and brine, and was then dried (MgSO4) and filtered. Following removal of the solvent, the crude product was purified by flash chromatography (1:20 EtOAc/toluene), to give 48 g of the title compound as a pale brown syrup.

reactant | 4-methoxyphenyl hydrazine hydrochloride | 0.286M, 50 g | Cl.COC1=CC=C(C=C1)NN
reactant | methyl 4-oxo-pentanoate | 0.315M, 40 mL | O=C(CCC(=O)OC)C | C6H10O3
solvent | HOAc | 500 mL | CC(=O)O | C2H4O2
product | Methyl (5-methoxy-2-methyl-1H-indol-3-yl)acetate | 48 g | COC=1C=C2C(=C(NC2=CC1)C)CC(=O)OC | C13H15NO3
